US04876346
(B) α-[[Methyl-(2-propynyl)amino]methyl]-3-(2-quinolinylmethoxy)benzene methanol
A mixture of 8.2 g (0.04 mol) of (R)-3-hydroxy-α-[[methyl-(2-propynyl)amino]methyl]benzene methanol, 7.1 g (0.04 mol) of 2-(chloromethyl)quinoline, 13.5 g (0.04 mol) of cesium carbonate, 0.5 g of potassium iodide, and 500 ml of tetahydrofuran is heated for 10 hours with stirring. The mixture is poured into water and ethyl acetate. The ethyl acetate is separated and washed with dilute aqueous sodium chloride solution. The ethyl acetate is dried over anhydrous magnesium sulfate, filtered and evaporated. The residue is chromatographed on silica gel with methylene chloride/isopropanol as eluent. Fractions 11-17 are combined, the solvent is evaporated and the residue, a viscous oil (2.1 g) is dried in vacuo.

reactant | (R)-3-hydroxy-α-[[methyl-(2-propynyl)amino]methyl]benzene methanol | 0.04 mol, 8.2 g | OC=1C=C(C=CC1)[C@@H](O)CN(CC#C)C | C12H15NO2
reactant | 2-(chloromethyl)quinoline | 0.04 mol, 7.1 g | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | cesium carbonate | 0.04 mol, 13.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 0.5 g | [I-].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | α-[[Methyl-(2-propynyl)amino]methyl]-3-(2-quinolinylmethoxy)benzene methanol | CN(CC#C)CC(O)C1=CC(=CC=C1)OCC1=NC2=CC=CC=C2C=C1 | C22H22N2O2
